US08664408B2
Step D: 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide hydrochloride
14.69 kg of 4-{3-[cis-hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide and 122 L of water are introduced into a reactor. A solution of 6.81 kg of 37% hydrochloric acid in 11.54 L of water is also prepared. 13.75 kg of this acid solution are added to the reactor. The mixture is stirred for 1 hour at ambient temperature, and then for 1 hour 30 minutes at 60° C. The suspension is filtered in the hot state and the filter is then rinsed with water. A solvent change is then carried out on the filtrate, keeping the volume constant, in order to obtain an isopropanol/water ratio of 9/1. The product is isolated at 0° C. and the precipitate obtained is washed with isopropanol. The title product is finally obtained in a yield of 89% and with a chemical purity greater than 99%.

reactant | 4-{3-[cis-hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide | 14.69 kg | C1N(C[C@H]2[C@@H]1CCC2)CCCOC2=CC=C(C(=O)N)C=C2 | C17H24N2O2
reactant | hydrochloric acid | 6.81 kg | Cl | ClH
solvent | water | 11.54 L | O | H2O
solvent | water | 122 L | O | H2O
product | 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide hydrochloride | yield of 89% | Cl.C1N(C[C@H]2[C@@H]1CCC2)CCCOC2=CC=C(C(=O)N)C=C2 | InChI=1S/C17H24N2O2.ClH/c18-17(20)13-5-7-16(8-6-13)21-10-2-9-19-11-14-3-1-4-15(14)12-19;/h5-8,14-15H,1-4,9-12H2,(H2,18,20);1H/t14-,15+;
